US07683187B2
To 500 ml water was added 100 g hexanal (1 mol), 184 g allylchloride (2.4 mol), 19 g tin(II) chloride (0.1 mol), 1.5 g sodium iodide (0.01 mol), 12.5 g copper powder (0.2 mol), 108 g acetic acid (1.8 mol) and 32.4 g aluminium (1.2 mol) (e.g. foil or clips). The reaction mixture was stirred vigorously for ca. 12 h at 35° C. Then the reaction mixture was separated as an aqueous and an organic layer, and the organic layer was distilled in vacuo to give 4-hydroxy-1-nonene (the conversion of starting material (based on hexanal) is typically better than 95%).

reactant | hexanal | 1 mol, 100 g | C(CCCCC)=O | C6H12O
reactant | allylchloride | 2.4 mol, 184 g | C(C=C)Cl | C3H5Cl
reactant | tin(II) chloride | 0.1 mol, 19 g | [Sn](Cl)Cl
reactant | sodium iodide | 0.01 mol, 1.5 g | [I-].[Na+]
reactant | acetic acid | 1.8 mol, 108 g | C(C)(=O)O | C2H4O2
reactant | aluminium | 1.2 mol, 32.4 g | [Al] | Al
catalyst | copper | 0.2 mol, 12.5 g | [Cu] | Cu
solvent | water | 500 ml | O | H2O
product | 4-hydroxy-1-nonene | OC(CC=C)CCCCC | C9H18O
